US09278944B2
To a solution of di-tert-butyl (2R)-2-{[{(1R)-1-[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]ethyl}(cyclopropyl)amino]carbonyl}piperazine-1,4-dicarboxylate (44.0 mg) and 2,6-lutidine (0.050 mL) in dichloromethane (1.0 mL) was added trimethylsilyltriflate (0.051 mL) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. Then, thereto were added aqueous saturated sodium hydrogen carbonate solution and methanol (2.0 mL) under ice-cooling, and the mixture was extracted with chloroform. The organic layer was washed with saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by NH-silica gel column chromatography (eluent: ethyl acetate→ethyl acetate/methanol=5/1) to give (2R)-N-{(1R)-1-[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]ethyl}-N-cyclopropylpiperazine-2-carboxamide [Ex(2-1)] (25.4 mg) and as a colorless oil.

reactant | di-tert-butyl (2R)-2-{[{(1R)-1-[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]ethyl}(cyclopropyl)amino]carbonyl}piperazine-1,4-dicarboxylate | 44.0 mg | ClC1=CN(C2=CC(=CC=C12)[C@@H](C)N(C(=O)[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1CC1)CCCOC | C32H47ClN4O6
reactant | 2,6-lutidine | 0.050 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyltriflate | 0.051 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | methanol | 2.0 mL | CO | CH4O
product | (2R)-N-{(1R)-1-[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]ethyl}-N-cyclopropylpiperazine-2-carboxamide | 25.4 mg | ClC1=CN(C2=CC(=CC=C12)[C@@H](C)N(C(=O)[C@@H]1NCCNC1)C1CC1)CCCOC | C22H31ClN4O2
